US06127396
Step 1: Ethyl 2-(3,4-dihydro-naphth-2-yl)acetate
A solution of 56 g (0.25 mol) of triethyl phosphonoacetate in 70 ml of tetrahydrofuran (THF) is added dropwise to a suspension, maintained at 0° C., of 6 g (0.25 mol) of NaH in 600 ml of anhydrous THF under a nitrogen atmosphere. The mixture is then stirred at 10° C. for 30 minutes, cooled to 0° C., and then treated, dropwise, with a solution of 36.52 g (0.25 mol) of β-tetralone in 50 ml of anhydrous THF. After stirring for 3 hours at 20° C., the mixture is hydrolysed, at 0° C., with 200 ml of water. The solvent is evaporated off under reduced pressure and the residue is extracted with dichloromethane (CH2Cl2)(3×200 ml). The combined organic phases are washed with saturated NaCl solution, dried and concentrated to yield an oily brown residue. Distillation under a partial vacuum allows the title compound to be obtained in the form of a colourless liquid.

reactant | NaH | 0.25 mol, 6 g | [H-].[Na+]
reactant | β-tetralone | 0.25 mol, 36.52 g | C1CC2=CC=CC=C2CC1=O | C10H10O
reactant | water | 200 ml | O | H2O
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
reactant | THF | 600 ml | O1CCCC1 | C4H8O
reactant | THF | 50 ml | O1CCCC1 | C4H8O
product | Ethyl 2-(3,4-dihydro-naphth-2-yl)acetate | C1=C(CCC2=CC=CC=C12)CC(=O)OCC | C14H16O2
